US07829560B2
3-Fluoro-5-morpholin-4-yl-N-(4-morpholin-4-ylmethyl-naphthalen-1-yl)-benzamide (Compound B316).
3-Fluoro-N-(4-formyl-naphthalen-1-yl)-5-morpholin-4-yl-benzamide (100 mg, 264 μmol) in morpholine (2.5 ml) is heated to 100° C. for 2.5 hours. Sodium cyanoborohydride (200 mg) is then added and the mixture heated at 100° C. for an additional 2 hours. The mixture is cooled to room temperature poured into ethyl acetate (100 ml), washed with water (2×50 ml) and brine (50 ml). The organic layer is dried over anhydrous sodium sulfate and evaporated to dryness. The residue is purified by column chromatography on silica gel eluting with 70% ethyl acetate in hexanes to give product as a white solid (64 mg). Mp: 192-3° C. 1H NMR 400 MHz (CDCl3) δ 8.32 (m, 1H), 8.03 (s, 1H), 7.83 (m, 2H), 7.5 (m, 2H), 7.39 (d, 1H, J=7.6 Hz), 7.24 (s, 1H), 6.98 (d, 1H, J=8 Hz), 6.70 (d, 1H, J=11.6 Hz), 3.8 (m, 6H), 3.62 (t, 4H, J=4.4 Hz), 3.19 (t, 4H, J=4.8 Hz), 2.45 (s, 4H). MS: 450 (M+1).

reactant | 3-Fluoro-N-(4-formyl-naphthalen-1-yl)-5-morpholin-4-yl-benzamide | 264 μmol, 100 mg | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)C=O)C=C(C1)N1CCOCC1 | C22H19FN2O3
reactant | Sodium cyanoborohydride | 200 mg | C(#N)[BH3-].[Na+]
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | morpholine | 2.5 ml | N1CCOCC1 | C4H9NO
product | 3-Fluoro-5-morpholin-4-yl-N-(4-morpholin-4-ylmethyl-naphthalen-1-yl)-benzamide | 64 mg | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)CN2CCOCC2)C=C(C1)N1CCOCC1 | C26H28FN3O3
